US05336778
Step A: Ethyl Valerate Isonicotinoylhydrazone
A mixture of 2.46 g (17.9 mmole) of isonicotinic hydrazide and 50 ml of ethanol was stirred at -10° C. as a solution of 2.52 g (16.6 mmole) of ethyl valerimidate hydrochloride, in 46 ml of ethanol was added dropwise under protection from moisture. The mixture was maintained at -10° C. for three hours and then at 5° C. overnight. The filtered solution was concentrated, and the residue was flash chromatographed on silica gel (elution with 2.5% methanol in CH2Cl2) to provide 2.12 g (50%) of the titled compound as an oil which goes to a waxy solid at 5° C., homogeneous by TLC in 9:1 CH2Cl2 --MeOH; mass spectrum (FAB) m/e 250 (M+1)+. NMR suggested that the product is a mixture of syn and anti-isomers.

reactant | isonicotinic hydrazide | 17.9 mmole, 2.46 g | C(C1=CC=NC=C1)(=O)NN | C6H7N3O
reactant | ethyl valerimidate hydrochloride | 16.6 mmole, 2.52 g | Cl.C(CCCC)(OCC)=N
solvent | ethanol | 46 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | Ethyl Valerate Isonicotinoylhydrazone | 2.12 g, 50% | C(C1=CC=NC=C1)(=O)NN=C(CCCC)OCC | C13H19N3O2
